US07572809B2
The mixture of 3-hydroxy-4-methoxy-benzaldehyde (30 g) and malonic acid (42 g) in pyridine (80 ml) and piperidine (4 ml) was heated at 120° C. for 6 hours. The solution was cooled to room temperature and concentrated to 20 ml. The residue was dissolved in 500 ml of water and the solution was acidified with concentrated HCl until PH=3. The solid was collected to give 3-(3-Hydroxy-4-methoxy-phenyl)-acrylic acid (40 g). LC-MS: m/e 195 (MH+).

reactant | 3-hydroxy-4-methoxy-benzaldehyde | 30 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | malonic acid | 42 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | piperidine | 4 ml | N1CCCCC1 | C5H11N
product | 3-(3-Hydroxy-4-methoxy-phenyl)-acrylic acid | 40 g | OC=1C=C(C=CC1OC)C=CC(=O)O | C10H10O4
